US09238639B2
H) Methyl(7-fluoro-4-methyl-6-((1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methoxy)-1-benzothiophen-3-yl)acetate
To a mixture of tri-n-butylphosphine (0.338 mL), methyl(7-fluoro-6-hydroxy-4-methyl-1-benzothiophen-3-yl)acetate (131.3 mg), (1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methanol (93 mg) and THF (4.0 mL) was added ADDP (284 mg) at room temperature. The mixture was stirred overnight at room temperature under nitrogen atmosphere. The mixture was concentrated. To the residue was added IPE and the precipitate was filtered off. The filtrate was concentrated in vacuo. The residue was purified by silica gel column chromatography (NH, EtOAc/hexane) to give the title compound (205.9 mg). The compound was crystallized from EtOAc-hexane.

reactant | tri-n-butylphosphine | 0.338 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | methyl(7-fluoro-6-hydroxy-4-methyl-1-benzothiophen-3-yl)acetate | 131.3 mg | COC(CC1=CSC2=C1C(=CC(=C2F)O)C)=O | C12H11FO3S
reactant | (1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methanol | 93 mg | CN1N=C(C=C1CO)C(F)(F)F | C6H7F3N2O
reactant | ADDP | 284 mg | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
product | Methyl(7-fluoro-4-methyl-6-((1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methoxy)-1-benzothiophen-3-yl)acetate | 205.9 mg | COC(CC1=CSC2=C1C(=CC(=C2F)OCC2=CC(=NN2C)C(F)(F)F)C)=O | C18H16F4N2O3S
